US03991076
A solution of 103 g (0.89 mole) of tetrahydrothiopyran-4-one, 95 g (1.33 moles) of pyrrolidine, and one l. of anhydrous benzene is heated under reflux in a nitrogen atmosphere for 2 hours until the theoretical amount of water has collected in a Dean-Stark trap. The solvent is distilled, and the residue is fractionated under reduced pressure to provide 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran as a colorless liquid, b.p. 124° (0.01 mm).

reactant | tetrahydrothiopyran-4-one | 0.89 mole, 103 g | S1CCC(CC1)=O | C5H8OS
reactant | pyrrolidine | 1.33 moles, 95 g | N1CCCC1 | C4H9N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 5,6-dihydro-4-(1-pyrrolidinyl)-2H-thiopyran | N1(CCCC1)C1=CCSCC1 | C9H15NS
